US05064649
(a) 5-Bromo-2,5-dihydro-4-methyl-2-oxo-3-phenylfuran
2,5-Dihydro-4-methyl-2-oxo-3-phenylfuran, (U.S. Pat. No. 3,622,569), (355 g) in carbon tetrachloride (50 mls) and N-bromosuccinimide (3.85 g) were heated under reflux in the presence of 2,2'-azobisisobutyronitrile (AIBN) (cat.quantity) and a 150W lamp. After 1 h a pale yellow solution was formed accompanied by the presence of succinimide. T.l.c. analysis showed a mixture of products. After filtration, and removal of solvent, the residue was purified by flash chroma-tography on silica gel eluting with 10% ethyl acetate/hexane. The title compound was obtained as a viscous yellow oil, (3.53 g, 68%), (Found; M+, 251.9802. C11H9O2Br requires M, 251.9786); νmax 1780(s) and 1650(w)cm-1 ; δH (CDCl3) 2.28 (3H,s), 6.80 (1H,s) and 7.45 (5H,m).

reactant | 2,5-Dihydro-4-methyl-2-oxo-3-phenylfuran | CC1=C(C(OC1)=O)C1=CC=CC=C1 | C11H10O2
reactant | N-bromosuccinimide | 3.85 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2'-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | succinimide | C1(CCC(N1)=O)=O | C4H5NO2
solvent | carbon tetrachloride | 50 mls | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromo-2,5-dihydro-4-methyl-2-oxo-3-phenylfuran | BrC1C(=C(C(O1)=O)C1=CC=CC=C1)C | C11H9BrO2
